US07776875B2
Preparation of Intermediate of 5-chloro-2-methyl-benzaldehyde
A mixture of paraformaldehyde (11.5 g, 0.38 mol) and hydroxylamine hydrochloride (26.3 g, 0.38 mol) in water (170 mL) was heated until a clear solution was obtained. Then there was added hydrated sodium acetate (51 g, 0.38 mol), and the mixture was boiled gently under reflux for 15 minutes to give a 10% solution of formaldoxime. A mixture of 2-choro-4-methylaniline (35.5 g, 0.25 mol) and water (50 mL) was stirred, and concentrated hydrochloric acid (57 mL) was added slowly. The mixture was cooled to room temperature, 100 g of ice was added, and the temperature of the mixture was maintained at −5° C. to +5° C. by means of an ice-salt bath. To the stirred mixture there was added a solution of sodium nitrite (17.5 g, 0.25 mol) in water (25 mL). After completion of the addition, the stirring was continued for a period of 15 minutes. The stirred solution of the diazonium salt was made neutral to Congo red by the addition of a solution of hydrated sodium acetate in water (35 mL). The aqueous 10% formaldoxime was added hydrated cupric sulfate (6.5 g, 0.026 mol), sodium sulfite (1.0 g, 0.0079 mole), and a solution of hydrated sodium acetate (160 g) in water (180 mL). The solution was maintained at 10-15° C. by means of a cold-water bath and stirred vigorously. The neutral diazonium salt solution was slowly introduced below the surface of the formaldoxime. After the addition of the diazonium salt solution was complete, the stirring was continued for an additional hour and then the mixture was treated with concentrated hydrochloric acid (230 mL). The mixture was gently heated under reflux for 2 hours. The mixture was extracted with three portions of ether (150 mL), and the ethereal extracts were washed with a saturated NaCl solution, Then the organic layer was dried over anhydrous Na2SO4 and concentrated to obtain yellow solid (Yield: 21 g, 36%).

reactant | 2-choro-4-methylaniline | 0.25 mol, 35.5 g | ClC1=C(N)C=CC(=C1)C | C7H8ClN
reactant | hydrochloric acid | 57 mL | Cl | ClH
reactant | sodium nitrite | 0.25 mol, 17.5 g | N(=O)[O-].[Na+]
reactant | formaldoxime | C=NO | CH3NO
reactant | hydrochloric acid | 230 mL | Cl | ClH
reactant | water | 25 mL | O | H2O
reactant | water | 35 mL | O | H2O
reactant | water | 180 mL | O | H2O
reactant | water | 50 mL | O | H2O
catalyst | sodium sulfite | 0.0079 mole, 1.0 g | S(=O)([O-])[O-].[Na+].[Na+]
product | 5-chloro-2-methyl-benzaldehyde | Yield: 21 g, 36% | ClC=1C=CC(=C(C=O)C1)C | C8H7ClO
